US05753664
3-Methyl-2-[4-[6-(4-piperidinopiperidino)nicotinoyl]benzyloxy]-4H-pyrido[1,2-a]pyrimidin-4-one
A solution of 2-[4-(6-chloronicotinoyl)benzyloxy]-3-methylpyrido[1,2-a]pyrimidin-4-one (0.49 g, 1.21 mmol) and 4-piperidinopiperidine (0.402 g, 2.39 mmol) in pyridine (15 ml) was stirred at 90° C. overnight. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (isopropyl ether: methylene chloride: methanol: ammonia=5:5:1:0.1) to provide a light-yellow oil.

reactant | 2-[4-(6-chloronicotinoyl)benzyloxy]-3-methylpyrido[1,2-a]pyrimidin-4-one | 1.21 mmol, 0.49 g | ClC1=NC=C(C(=O)C2=CC=C(COC=3N=C4N(C(C3C)=O)C=CC=C4)C=C2)C=C1 | C22H16ClN3O3
reactant | 4-piperidinopiperidine | 2.39 mmol, 0.402 g | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 3-Methyl-2-[4-[6-(4-piperidinopiperidino)nicotinoyl]benzyloxy]-4H-pyrido[1,2-a]pyrimidin-4-one | CC1=C(N=C2N(C1=O)C=CC=C2)OCC2=CC=C(C=C2)C(C2=CN=C(C=C2)N2CCC(CC2)N2CCCCC2)=O | C32H35N5O3
